US08669266B2
(i) (S)-2-tert-Butoxycarbonylamino-3-(3-hydroxy-5-methyl-isoxazol-4-yl)-propionic acid
To a solution of 50 mg (S)-2-Amino-3-(3-hydroxy-5-methyl-isoxazol-4-yl)-propionic acid in 2 ml dioxane were added at 0° C. 70 mg di-tert-butyl dicarbonate and a solution of 44 mg NaHCO3 in 1 ml water. After stirring for 12 h the mixture was acidified to pH3 using aqueous ascorbic acid (10%) before being extracted with DCM. The crude product obtained after evaporation of the solvent was used in the next step without further purification. Yield: 110 mg.

reactant | (S)-2-Amino-3-(3-hydroxy-5-methyl-isoxazol-4-yl)-propionic acid | 50 mg | N[C@H](C(=O)O)CC=1C(=NOC1C)O | C7H10N2O4
reactant | di-tert-butyl dicarbonate | 70 mg | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
reactant | NaHCO3 | 44 mg | C(=O)(O)[O-].[Na+]
reactant | ascorbic acid | O=C1C(O)=C(O)[C@H](O1)[C@@H](O)CO | C6H8O6
solvent | dioxane | 2 ml | O1CCOCC1 | C4H8O2
solvent | water | 1 ml | O | H2O
product | (S)-2-tert-Butoxycarbonylamino-3-(3-hydroxy-5-methyl-isoxazol-4-yl)-propionic acid | C(C)(C)(C)OC(=O)N[C@H](C(=O)O)CC=1C(=NOC1C)O | C12H18N2O6
